US06066657
2-Cyclopropanecarbonyl-7-methoxybenzofuran-4-carboxylic Acid 4-nitrophenyl Ester
To a stirred suspension of 2-cyclopropanecarbonyl-7-methoxybenzofuran-4-carboxylic acid (0.50 g) in dichloromethane (30 ml) under an atmosphere of nitrogen was added 4-nitrophenol (0.29 g), 4-dimethylaminopyridine (20 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.41 g). The reaction mixture was stirred at room temperature for 18 h. Water (30 ml) was added and the mixture extracted with dichloromethane (150 ml). The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by flash chromatography on silica eluting with 40% ethyl acetate in hexane afforded the title compound as a pale yellow solid (0.59 g).

reactant | 2-cyclopropanecarbonyl-7-methoxybenzofuran-4-carboxylic acid | 0.50 g | C1(CC1)C(=O)C=1OC=2C(C1)=C(C=CC2OC)C(=O)O | C14H12O5
reactant | 4-nitrophenol | 0.29 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.41 g | Cl.CN(CCCN=C=NCC)C
reactant | Water | 30 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Cyclopropanecarbonyl-7-methoxybenzofuran-4-carboxylic Acid 4-nitrophenyl Ester | 0.59 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C=CC(=C2C1C=C(O2)C(=O)C2CC2)OC | C20H15NO7
